US07247628B2
To a solution of 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-1H-imidazole-4-carboxylic acid I-7d (1.31 g, 3.57 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.42 g, 1.2 equiv) in THF (14 ml) were added TEA (4.97 ml, 10 equiv) and 1-propane phosphonic acid cyclic anhydride (3.21 ml, 1.5 equiv). The reaction mixture was stirred at room temperature overnight, diluted with ethyl acetate and washed with water, 10% citric acid, and saturated aqueous sodium chloride. The organic phase was dried over anhydrous magnesium sulfate and concentrated to a foam which was purified by flash column chromatography (silica, 70:30 ethyl acetate/hexane grading to ethyl acetate) to give 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-1H-imidazole-4-carboxylic acid methoxy-methyl-amide I-7e (485 mg, 33%).

reactant | 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-1H-imidazole-4-carboxylic acid | 3.57 mmol, 1.31 g | ClC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H9Cl3N2O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.42 g, 1.2 equiv | Cl.CNOC
reactant | 1-propane phosphonic acid cyclic anhydride | 3.21 ml, 1.5 equiv | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-chloro-phenyl)-2-(2,4-dichloro-phenyl)-1H-imidazole-4-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1N=C(N(C1)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)Cl)Cl)C | C18H14Cl3N3O2
